### PR TITLE
[Merged by Bors] - chore: add tag `fun_prop` to `MeromorphicOn` and `AnalyticOnNhd`

### PR DESCRIPTION
**Pull request by kebekus**
For improved proof automation, add tag `fun_prop` to `MeromorphicOn` and `AnalyticOnNhd`, provide transition lemmas, and golf existing call sites.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Analytic/Composition.lean [hunk 1]
```diff
@@ -889,6 +889,7 @@ theorem AnalyticOnNhd.comp' {s : Set E} {g : F → G} {f : E → F} (hg : Analyt
     (hf : AnalyticOnNhd 𝕜 f s) : AnalyticOnNhd 𝕜 (g ∘ f) s :=
   fun z hz => (hg (f z) (Set.mem_image_of_mem f hz)).comp (hf z hz)
 
+@[to_fun (attr := fun_prop)]
```
Comment (j-loreaux) [inline Mathlib/Analysis/Analytic/Composition.lean]: This one shouldn't be marked, as in general it will be hard for `fun_prop` to discharge the `Set.MapsTo` side goal. Worse yet, it's underdetermined because `t` is a metavariable.

File: Mathlib/Analysis/Meromorphic/Basic.lean [hunk 2]
```diff
@@ -547,91 +551,110 @@ include hf in
...
 
 include hf in
 /-- Derivatives of meromorphic functions are meromorphic. -/
+@[fun_prop]
 protected theorem deriv [CompleteSpace E] : MeromorphicOn (deriv f) U := fun z hz ↦ (hf z hz).deriv
 
 include hf in
 /-- Iterated derivatives of meromorphic functions are meromorphic. -/
+@[fun_prop]
 theorem iterated_deriv [CompleteSpace E] {n : ℕ} : MeromorphicOn (_root_.deriv^[n] f) U :=
```
Comment (j-loreaux) [inline Mathlib/Analysis/Meromorphic/Basic.lean]: Is that `_root_.` necessary?
```suggestion
theorem iterated_deriv [CompleteSpace E] {n : ℕ} : MeromorphicOn (deriv^[n] f) U :=
```

File: Mathlib/Analysis/Meromorphic/Basic.lean [hunk 3]
```diff
@@ -669,6 +692,28 @@ theorem meromorphicOn_sphere_comp_sub_const_iff_meromorphicOn_sphere {c : 𝕜}
...
+section composition
+
+variable {F : Type*} [NormedAddCommGroup F] [NormedSpace 𝕜 F] [NormedSpace 𝕜' F]
+  [IsScalarTower 𝕜 𝕜' F] {V : Set 𝕜'}
+
+/-- The composition of a meromorphic and an analytic function is meromorphic. -/
+@[fun_prop]
+lemma comp_analyticOnNhd {f : 𝕜' → F} {g : 𝕜 → 𝕜'} (hf : MeromorphicOn f V)
+    (hg : AnalyticOnNhd 𝕜 g U) (hUV : Set.MapsTo g U V) :
+    MeromorphicOn (f ∘ g) U :=
```
Comment (j-loreaux) [inline Mathlib/Analysis/Meromorphic/Basic.lean]: This has the same problem for being marked `fun_prop` as the other `comp` lemma: `V` is a metavariable.

File: Mathlib/Analysis/Meromorphic/Basic.lean [hunk 4]
```diff
@@ -669,6 +692,28 @@ theorem meromorphicOn_sphere_comp_sub_const_iff_meromorphicOn_sphere {c : 𝕜}
...
+  fun z hz ↦ (hf _ (hUV hz)).comp_analyticAt (hg z hz)
+
+/-- Variant of `MeromorphicOn.comp_analyticOnNhd` which trades the `Set.MapsTo` hypothesis for a
+smaller set. -/
+@[fun_prop]
+lemma comp_analyticOnNhd_inter {f : 𝕜' → F} {g : 𝕜 → 𝕜'} (hf : MeromorphicOn f V)
+    (hg : AnalyticOnNhd 𝕜 g U) :
+    MeromorphicOn (f ∘ g) (U ∩ g ⁻¹' V) :=
```
Comment (j-loreaux) [inline Mathlib/Analysis/Meromorphic/Basic.lean:711]: This one is okay, it just won't apply terribly often.

File: MathlibTest/FunProp.lean [hunk 5]
```diff
@@ -88,6 +90,56 @@ example (z : ℂ) : MeromorphicAt (fun t ↦ Complex.cosh t) z := by
...
+-- Analytic leaves are reached through the `AnalyticOnNhd.meromorphicOn` transition.
+example : MeromorphicOn (fun z ↦ Complex.exp z / (z ^ 2 - 1)) U := by fun_prop
+
+example (hf : Meromorphic f) : MeromorphicOn (fun z ↦ f z + Complex.sin z) U := by fun_prop
+
+-- Composition: the outer function must be the meromorphic one.
+example (hf : Meromorphic f) : MeromorphicOn (fun z ↦ f (z ^ 2 + 1)) U := by fun_prop
+
+example (hf : MeromorphicOn f V) (hUV : Set.MapsTo (fun z ↦ z ^ 2) U V) :
+    MeromorphicOn (fun z ↦ f (z ^ 2)) U := by fun_prop (disch := assumption)
```
Comment (j-loreaux) [inline MathlibTest/FunProp.lean]: This happens to work, but arguably only because a ~~feature~~ bug in `fun_prop` where it assigns the metavariable with the first thing it finds that fits.

File: Mathlib/Analysis/Analytic/Composition.lean (hunk 1 above)
Comment (kebekus) [reply Mathlib/Analysis/Analytic/Composition.lean]: Roger. Removed tag.

File: Mathlib/Analysis/Meromorphic/Basic.lean (hunk 3 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Basic.lean]: Removed the tag.

File: Mathlib/Analysis/Meromorphic/Basic.lean (hunk 4 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Basic.lean:711]: Roger. Left it as is.

File: MathlibTest/FunProp.lean (hunk 5 above)
Comment (kebekus) [reply MathlibTest/FunProp.lean]: Removed test, which anyway fails after removing the tags earlier.

**Comment by kebekus** [comment]
@j-loreaux All suggestions implemented. Thanks for your time.

File: Mathlib/Analysis/Meromorphic/Basic.lean [hunk 6]
```diff
@@ -713,8 +757,28 @@ variable
...
+@[fun_prop]
+lemma comp_analyticOnNhd {f : 𝕜' → F} {g : 𝕜 → 𝕜'} {U : Set 𝕜} (hf : Meromorphic f)
+    (hg : AnalyticOnNhd 𝕜 g U) :
+    MeromorphicOn (f ∘ g) U :=
+  fun z hz ↦ (hf _).comp_analyticAt (hg z hz)
+
+end composition
+
+@[fun_prop]
+lemma id : Meromorphic (id : 𝕜 → 𝕜) := fun x ↦ .id x
```
Comment (j-loreaux) [inline Mathlib/Analysis/Meromorphic/Basic.lean]: oops, missed this last time.
```suggestion
protected lemma id : Meromorphic (id : 𝕜 → 𝕜) := fun x ↦ .id x
```

File: Mathlib/Analysis/Meromorphic/Basic.lean [hunk 7]
```diff
@@ -536,8 +538,10 @@ theorem _root_.meromorphicOn_congr_codiscreteWithin {f g : 𝕜 → E} (h₁ : f
     MeromorphicOn f U ↔ MeromorphicOn g U :=
   ⟨(·.congr_codiscreteWithin h₁ h₂), (·.congr_codiscreteWithin h₁.symm h₂)⟩
 
+@[fun_prop]
 lemma id {U : Set 𝕜} : MeromorphicOn id U := fun x _ ↦ .id x
```
Comment (j-loreaux) [inline Mathlib/Analysis/Meromorphic/Basic.lean]:
```suggestion
protected lemma id {U : Set 𝕜} : MeromorphicOn id U := fun x _ ↦ .id x
```

**Review by j-loreaux — COMMENTED** [review]
Thanks! There might be some minimal breakage from protecting the existing `id` lemma.

bors d+

**Comment by kebekus** [comment]
@j-loreaux Thanks!

bors r+

**Comment by kebekus** [comment]
Unsure why bors failed. Maybe try again?

bors r+
